US07323475B2
a) [(4-Phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester
A mixture of [(1-chloro-4-phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester (177 mg, 0.5 mmol, Example D-74 b), Pd/C (50 mg, 10 wt % Pd), sodium acetate (49 mg, 0.6 mmol), MeOH (10 ml) and EtOAc (5 ml) was stirred under a H2-atmosphere at ambient pressure and temperature for 2 h. Then the mixture was filtered through a pad of celite. Celite and filter cake were washed thoroughly with EtOAc and the combined organic phases were concentrated in vacuo. To the residue was added concentrated aqueous NaHCO3 (10 ml) and the mixture was extracted with EtOAc (2×15 ml). The combined organic phases were dried over MgSO4 and concentrated in vacuo to give the title compound as a colorless gum (154 mg); MS-(+)-ion: M+1=321.0.

reactant | [(1-chloro-4-phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester | 0.5 mmol, 177 mg | COC(CNC(=O)C=1N=C(C2=CC=CC=C2C1C1=CC=CC=C1)Cl)=O | C19H15ClN2O3
reactant | sodium acetate | 0.6 mmol, 49 mg | C(C)(=O)[O-].[Na+]
reactant | MeOH | 10 ml | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
product | [(4-Phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester | 154 mg | COC(CNC(=O)C=1N=CC2=CC=CC=C2C1C1=CC=CC=C1)=O | C19H16N2O3
